US06887533B2
The 8,9-difluoro-3-methyl-1,2,3,4-tetrahydro-1-oxaanthracene (1.5 g) obtained in this way was dissolved in 40 ml of tetrahydrofuran and admixed at −75° C. with 7 mmol of n-butyllithium. After stirring for a further 30 minutes, a solution of 7 mmol of potassium tert-butoxide in 20 ml of tetrahydrofuran was added dropwise. After cooling to −95° C., 15 mmol of propyl bromide were added dropwise. After 2 h, the temperature was cooled to −70° C., the mixture was stirred at this temperature for a further 1 h and was then allowed to come to 0° C. overnight. The mixture was added to 200 ml of ice-water and extracted twice with 100 ml each time of tert-butyl methyl ether, and the organic phases were combined, washed with water and saturated sodium chloride solution and dried. The solvent was distilled off under reduced pressure and the brown residue was chromatographed through 500 g of silica gel using heptane/toluene (9:1, v/v). 0.42 g of 8,9-difluoro-3-methyl-7-propyl-1,2,3,4-tetrahydro-1-oxaanthracene was obtained as a colorless syrup.

reactant | 8,9-difluoro-3-methyl-1,2,3,4-tetrahydro-1-oxaanthracene | 1.5 g | FC=1C=CC=C2C=C3CC(COC3=C(C12)F)C | C14H12F2O
reactant | n-butyllithium | 7 mmol | C(CCC)[Li]
reactant | potassium tert-butoxide | 7 mmol | CC(C)([O-])C.[K+]
reactant | propyl bromide | 15 mmol | C(CC)Br | C3H7Br
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8,9-difluoro-3-methyl-7-propyl-1,2,3,4-tetrahydro-1-oxaanthracene | 0.42 g | FC=1C(=CC=C2C=C3CC(COC3=C(C12)F)C)CCC | C17H18F2O
